US08026257B2
2-((1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-1H-indazol-7-yl)acetic acid.
Prepared according to the procedure used to prepare tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate using 2-((1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid as the starting material and using dichloromethane/methanol in its purification. tR=3.03 min (Phenomenex C18 3.0×50 mm, A=90% H2O/10% methanol, B=90% methanol/10% H2O, Modifier 0.1% TFA, 0.00 min=0% B, 3.0 min=100% B, 5.0 min=100% B, Flow rate=4 mL/min). Mass spec.: 518.22 (MH)+.

reactant | tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C27H31ClFN3O5
reactant | 2-((1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)F)COC(C(=O)O)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl | C32H43ClFN3O6Si
solvent | dichloromethane methanol | ClCCl.CO
product | 2-((1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methoxy)-2-(5-chloro-1H-indazol-7-yl)acetic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)F)COC(C(=O)O)C=1C=C(C=C2C=NNC12)Cl | C26H29ClFN3O5
